US04622169
A mixture of thionyl chloride (320 g) and 1,4-diamino anthraquinone (20 g) is refluxed for 24 hours. The mixture is then cooled and poured onto crushed ice. The precipitate is filtered, dried and purified by recrystallization from carbon tetrachloride. The yield is 50 percent 2-chloro-1,4-diamino anthraquinone with a melting point of 207° C. to 210° C.

reactant | thionyl chloride | 320 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1,4-diamino anthraquinone | 20 g | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
product | 2-chloro-1,4-diamino anthraquinone | yield is 50 percent | ClC1=C(C=2C(C3=CC=CC=C3C(C2C(=C1)N)=O)=O)N | C14H9ClN2O2
